US05142081
1,4-bis-trimethylsiloxybutane
1 mole of butane-1,4-diol, 3 moles of trimethylchlorosilane and 0.002 moles of tetra-n-butyl ammonium bromide were reacted at the reflux temperature (54°-96° C.) as in Example 1 and then worked up by distillation.

reactant | butane-1,4-diol | 1 mole | C(CCCO)O | C4H10O2
reactant | trimethylchlorosilane | 3 moles | C[Si](Cl)(C)C | C3H9ClSi
catalyst | tetra-n-butyl ammonium bromide | 0.002 moles | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1,4-bis-trimethylsiloxybutane | C[Si](OCCCCO[Si](C)(C)C)(C)C | C10H26O2Si2
